US05003017
(a) Preparation of 2,6-bis-(3-allyloxyphenoxy)-pyridine
59.7 g allyl chloride were added dropwise at 95° C. to a solution of 87.9 g of 2,6-bis-(3-hydroxyphenoxy)-pyridine (prepared according to DE-A 19 34 889 from 2,6-dichloropyridine and 2 moles of resorcinol; colorless crystals of melting point 188° C.) and 26.4 g of sodium hydroxide in 500 ml of n-propanol. The mixture was refluxed for a further 10 hours and then cooled to room temperature, after which 500 ml of dichloromethane were added and the precipitated sodium chloride was filtered off. After the solvent had been distilled off under reduced pressure, 101 g (90%) of product were obtained as a yellowish oil having a viscosity of 60 mPa.s at 50° C.; NMR (300 MHZ, D6-DMSO): 4.56 (d, 4H, allyl), 5.22-5.42 (dd, 4H, allyl), 5.95-6.10 (m, 2H, allyl), 6.60-6.85 (m, 6H, arom.), 7.22 (t, 2H, arom.), 7.82 (t, 1H, arom.).

reactant | allyl chloride | 59.7 g | C(C=C)Cl | C3H5Cl
reactant | 2,6-bis-(3-hydroxyphenoxy)-pyridine | 2 moles, 87.9 g | OC=1C=C(OC2=NC(=CC=C2)OC2=CC(=CC=C2)O)C=CC1 | C17H13NO4
reactant | sodium hydroxide | 26.4 g | [OH-].[Na+]
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
reactant | n-propanol | 500 ml | C(CC)O | C3H8O
product | 2,6-bis-(3-allyloxyphenoxy)-pyridine | 101 g, 90% | C(C=C)OC=1C=C(OC2=NC(=CC=C2)OC2=CC(=CC=C2)OCC=C)C=CC1 | C23H21NO4
